US07888364B2
A solution of 818 mg of Sodium Nitrite in 13 mL of water was added dropwise to a solution of 2 g of methyl 4-amino-2-chlorobenzoate in 5 mL of HCl and 15 mL of AcOH at 0° C. The reaction was removed from the ice bath and stirred at room temperature for 15 minutes. Simultaneously a solution of 460 mg of Copper II Chloride Dihydrate in 1 mL of water was added to a saturated solution of sulfur dioxide gas in 10 mL of AcOH at 0° C. The cooled solution containing Copper II Chloride and sulfur dioxide gas was slowly added to the re-cooled initial solution containing Sodium Nitrite. The reaction was warmed to room temperature and stirred until gas no longer evolved. The reaction was filtered through celite and poured into a beaker of stirred icewater until a yellow-orange solid crashed out. The icewater solution was filtered thru a Buchner funnel to collect the methyl 2-chloro-4-(chlorosulfonyl)benzoate precipitate and was dried for 24 hours under vacuum. 1 g of methyl 2-chloro-4-(chlorosulfonyl)benzoate was added to a solution of 2 mL of 2M solution of Ammonia in MeOH and 970 μL DIPEA in 5 mL MeOH. Upon completion the reaction was concentrated, extracted twice with saturated bicarbonate, dried with Magnesium Sulfate, filtered and concentrated to give methyl 2-chloro-4-sulfamoylbenzoate. 777 mg of methyl 2-chloro-4-sulfamoylbenzoate was hydrolyzed via Procedure M to yield crude 2-chloro-4-sulfamoylbenzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 91 mg of crude 2-chloro-4-sulfamoylbenzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-sulfamoylbenzamide. MS (Q1) 422 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-sulfamoylbenzoic acid | 91 mg | ClC1=C(C(=O)O)C=CC(=C1)S(N)(=O)=O | C7H6ClNO4S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-sulfamoylbenzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)S(N)(=O)=O | C18H13Cl2N3O3S
